2180-07-08 08:54:00 Physician Attending Progress Note
Chief Complaint: f/u weakness and tachycardia
   HPI:
   53M w/ h/o progressive multiple sclerosis who was having weakness at
   home.  Reports that he could no longer help his caregivers with
   transfers, etc.   Heart rate to 140s.
   24 Hour Events:
 PAN CULTURE - At [**2180-7-8**] 12:51 AM
 MULTI LUMEN - START [**2180-7-8**] 05:48 AM
 FEVER - 102.5
F - [**2180-7-7**] 11:00 PM
   UA negative.
   Rec'd ceftriaxone and 4L NS in the ED.
   Rec
d add
l 4L NS
   CT chest/abd/pelvis
   Could not place a-line
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2180-7-8**] 05:28 AM
   Vancomycin - [**2180-7-8**] 06:11 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-7-8**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-7-8**] 08:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.1
C (100.5
   HR: 104 (104 - 133) bpm
   BP: 95/58(66) {83/41(51) - 111/68(77)} mmHg
   RR: 16 (12 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 73.9 kg (admission): 65.2 kg
   Height: 70 Inch
   CVP: 2 (2 - 8)mmHg
   8 mmHg this AM.
   Total In:
                                                                      1 mL
                                                                  8,375 mL
   PO:
                               TF:
   IVF:
                                                                      1 mL
                                                                  4,375 mL
   Blood products:
   Total out:
                                                                    245 mL
                                                                  1,270 mL
   Urine:
                                                                    245 mL
                                                                  1,270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -245 mL
                                                                  7,105 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Somnolent, unable to hold prolonged conversation.
   PERRL.
   OP clr.  No cervical/submandibular/supraclavicular lymphadenopathy
   Regular S1,S2. No m/r/g
   Lungs: CTA b/l.  Normal excursion.
   Abd: +bs.  Soft. NT. ND,
   No c/c/e
   No rashes noted.
   Labs / Radiology
   14.6 g/dL
   301 K/uL
   120 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.6 mEq/L
   6 mg/dL
   105 mEq/L
   140 mEq/L
   43.0 %
   18.1 K/uL
        [image002.jpg]
                             [**2180-7-7**]  11:46 PM
                             [**2180-7-7**]  11:59 PM
   WBC
   18.1
   Hct
   43.0
   Plt
   301
   Cr
   0.6
   Glucose
   115
   120
   Other labs: PT / PTT / INR:11.6/26.6/1.0, ALT / AST:44/37, Alk Phos / T
   Bili:54/0.4, Amylase / Lipase:63/, Differential-Neuts:92.1 %, Lymph:3.1
   %, Mono:4.1 %, Eos:0.7 %, Lactic Acid:1.1 mmol/L, Albumin:4.1 g/dL,
   Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   53 M w/ progressive MS, a/w fever, hypotension, of unclear etiology.
    1. Septic Shock  -  Source remains unclear.  R basilar atelectasis vs
       small infiltrate is a possibility but not clear.  On broad spectrum
       antibiotics.  Given fever, unlikely to be neurogenic.  Follow up
       cultures, consider sinus imaging if he remains pressor dependent,
       failure to improve.  Viral swab is pending.  Neo now weaning down,
       but BP and CVP still on the low side
 will bolus IVF x1L now.  If
       remains pressor dependent may consider change to levophed.  Follow
       up cultures.   Also working up metabolic causes.
    2. MS
 off therapy.  No recent history of immunosuppressives.
    3. Somnolence- no current evidence of encephalitis.  If becomes
       confused or does not become more arouseable will consider LP.
   ICU Care
   Nutrition:  Clears, ADAT
   Glycemic Control:
   Lines:  LIJ
   20 Gauge - [**2180-7-8**] 12:29 AM
   Multi Lumen - [**2180-7-8**] 05:48 AM
   Prophylaxis:
   DVT:  hep sc
   Stress ulcer:  PPI
   Comments:
   Communication:  Comments: Partner
   [**Name (NI) 66**] status: Full code
   Disposition : ICU
   Total time spent: 45 minutes, patient is critically ill

2180-07-09 09:40:00 Physician Attending Progress Note
Chief Complaint: f/u sepsis
   HPI:
    53M w/ progressive MS admitted with hypotension likely [**12-27**] septic
   shock.
   Reports that he feels well.  Only localizing symptom is ongoing sinus
   drainage.  Denies cp/sob/n/v/d/abd pain.
   24 Hour Events:
 FEVER - 101.2
F - [**2180-7-9**] 04:00 AM
   Continued on neosynephrine overnight
   IVF boluses given to goal CVP10-12
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-7-8**] 07:56 PM
   Piperacillin/Tazobactam (Zosyn) - [**2180-7-9**] 05:40 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2180-7-8**] 07:56 PM
   Heparin Sodium (Prophylaxis) - [**2180-7-9**] 12:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-7-9**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.1
C (98.8
   HR: 51 (51 - 103) bpm
   BP: 99/53(64) {82/43(52) - 115/65(77)} mmHg
   RR: 16 (11 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 73.9 kg (admission): 65.2 kg
   Height: 70 Inch
   CVP: 15 (3 - 15)mmHg
   Total In:
                                                                 10,601 mL
                                                                  1,610 mL
   PO:
                                                                    510 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  6,090 mL
                                                                  1,370 mL
   Blood products:
   Total out:
                                                                  2,745 mL
                                                                    645 mL
   Urine:
                                                                  2,745 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,856 mL
                                                                    965 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Well appearing NAD.
   PERRL.
   OP clr.  No cervical/submandibular/supraclavicular lymphadenopathy
   Regular S1,S2. No m/r/g
   Lungs: CTA b/l.  Normal excursion.
   Abd: +bs.  Soft. NT. ND,
   No c/c/e
   No rashes noted.
   Neuro: Alert and oriented x3.  conversant.
   Labs / Radiology
   11.1 g/dL
   210 K/uL
   113 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.0 mEq/L
   7 mg/dL
   110 mEq/L
   138 mEq/L
   32.8 %
   24.4 K/uL
        [image002.jpg]
                             [**2180-7-7**]  11:46 PM
                             [**2180-7-7**]  11:59 PM
                             [**2180-7-9**]  02:25 AM
   WBC
   18.1
   24.4
   Hct
   43.0
   32.8
   Plt
   301
   210
   Cr
   0.6
   0.6
   Glucose
   115
   120
   113
   Other labs: PT / PTT / INR:11.6/26.6/1.0, ALT / AST:44/37, Alk Phos / T
   Bili:54/0.4, Amylase / Lipase:63/, Differential-Neuts:92.1 %, Lymph:3.1
   %, Mono:4.1 %, Eos:0.7 %, Lactic Acid:1.2 mmol/L, Albumin:4.1 g/dL,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   53 M w/ progressive MS, a/w septic shock, of unclear etiology.
    1. Septic Shock  -  Source remains unclear.  R basilar atelectasis vs
       small infiltrate is a possibility but not clear.  On broad spectrum
       antibiotics.  WBCC up, checking diff. Given fever, unlikely to be
       neurogenic.  Has only received 24h of antibiotics so this may not
       represent antibiotic failure.   Plan for sinus imaging but unless
       abscess visualized seems less likely as a possible etiology.  Viral
       swab is pending.
    2. Hypotension
 [**Month (only) 60**] not necessarily be related to sepsis as above
       given good mentation, Uo, and lactate normal.  Remains pressor
       dependent but despit  CVP now [**9-4**].  BP has increased on stable
       dose of pressor.  Will check BP at other sites- attempt to wean neo
       given discordant with clinical improvement.  If remains pressor
       dependent will change to levophed for Tx of septic shock.  Awaiting
       CvO2- if low will consider TTE.
    3. MS
 off therapy.  No recent history of immunosuppressives.
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 IMPAIRED PHYSICAL MOBILITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2180-7-8**] 12:29 AM
   Multi Lumen - [**2180-7-8**] 05:48 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: H2
   VAP: Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35min

2180-07-10 10:37:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Weaned from vasopressors, remains off vasopressors.
   States to feel well this AM, much improved.  Eating.
   Good spirits.
   Clinical evidence of improvement prior to starting Doxycycline.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2180-7-10**] 06:00 AM
   Vancomycin - [**2180-7-10**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-7-10**] 08:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure,
   Multiple Sclerosis
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2180-7-10**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (98.9
   HR: 95 (63 - 108) bpm
   BP: 105/64(73) {80/46(57) - 105/69(78)} mmHg
   RR: 21 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 73.9 kg (admission): 65.2 kg
   Height: 70 Inch
   CVP: 11 (0 - 19)mmHg
   Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                  2,486 mL
                                                                    752 mL
   PO:
                                                                    240 mL
                                                                    350 mL
   TF:
   IVF:
                                                                  2,246 mL
                                                                    402 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    610 mL
   Urine:
                                                                  1,625 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    861 mL
                                                                    142 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Left IJ
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): 0x3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal, 2/5 strength in right arm, otherwise [**11-29**]
   motor power.
   Labs / Radiology
   11.1 g/dL
   250 K/uL
   104 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   8 mg/dL
   110 mEq/L
   142 mEq/L
   32.0 %
   17.6 K/uL
        [image002.jpg]
                             [**2180-7-7**]  11:46 PM
                             [**2180-7-7**]  11:59 PM
                             [**2180-7-9**]  02:25 AM
                             [**2180-7-9**]  05:11 PM
                             [**2180-7-10**]  03:39 AM
   WBC
   18.1
   24.4
   19.4
   17.6
   Hct
   43.0
   32.8
   30.6
   32.0
   Plt
   [**Telephone/Fax (3) 10036**]50
   Cr
   0.6
   0.6
   0.7
   Glucose
   115
   120
   113
   104
   Other labs: PT / PTT / INR:11.6/26.6/1.0, ALT / AST:57/37, Alk Phos / T
   Bili:60/0.9, Amylase / Lipase:63/, Differential-Neuts:87.2 %, Band:2.0
   %, Lymph:8.2 %, Mono:3.6 %, Eos:0.8 %, Lactic Acid:1.6 mmol/L,
   Albumin:4.1 g/dL, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
   53 M w/ progressive MS, a/w septic shock, of unclear etiology.
   SEPSIS -- clinical response to current medical management.  Source
   remains unclear, but cultures and swab pending.  Continue empirical
   antimicrobials, and consider d/c doxycycline.
   HYPOTENTION -- improved.  Monitor BP. Maintain MAP > 60 mmHg.
   TACHYCARDIA -- resolved.  Attributed to hypovolemia.
   MS --  No clinical deterioration.  Remains off specific therapy.  No
   recent history of immunosuppressives.
   ANEMIA -- chronic, stable.
   NUTRITION -- regular diet.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2180-7-8**] 12:29 AM
   Multi Lumen - [**2180-7-8**] 05:48 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes
   Patient is critically ill